US07601843B2
2-(1-Ethylcyclohexyl)ethanol
After adding a 1.0 M tetrabutylammonium fluoride-tetrahydrofuran solution (7.70 mL, 7.70 mmol) to a solution of tert-butyl-2-(1-ethylcyclohexyl)ethoxydiphenylsilane (3.02 g, 7.65 mmol) in tetrahydrofuran (20 mL) at room temperature, the mixture was stirred for 2 hours. A 1.0 M tetrabutylammonium fluoride tetrahydrofuran solution (7.70 mL, 7.70 mmol) was then added, and the mixture was stirred for 14 hours. After further adding 1N hydrochloric acid (20 mL) to the reaction mixture, extraction was performed with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the organic layer was dried over anhydrous magnesium sulfate. After filtering and concentration under reduced pressure, the obtained residue was purified by silica gel column chromatography (100 g Merck Art. 9385, hexane:ethyl acetate=6:1) to obtain the title compound as a colorless oil (708 mg) (3 steps, 57% yield).

reactant | tetrabutylammonium fluoride tetrahydrofuran | 7.70 mmol, 1.0 M, 7.70 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | tert-butyl-2-(1-ethylcyclohexyl)ethoxydiphenylsilane | 7.65 mmol, 3.02 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1(CCCCC1)CC | C26H38OSi
reactant | tetrabutylammonium fluoride tetrahydrofuran | 7.70 mmol, 1.0 M, 7.70 mL | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1N, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(1-Ethylcyclohexyl)ethanol | 708 mg, 57% yield | C(C)C1(CCCCC1)CCO | C10H20O
